### PR TITLE
[Merged by Bors] - feat: lemmas about finset

### PR DESCRIPTION
**Pull request by fpvandoorn**
from the Sobolev project (formerly: marginal project)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

* Pinging @hrmacbeth so that she knows I'm starting to PR things to mathlib.

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Basic.lean [hunk 1]
```diff
@@ -592,6 +592,12 @@ theorem Equiv.prod_comp_finset {ι'} [DecidableEq ι] (e : ι ≃ ι') (f : ι'
 #align finset.equiv.prod_comp_finset Finset.Equiv.prod_comp_finset
 #align finset.equiv.sum_comp_finset Finset.Equiv.sum_comp_finset
 
+@[to_additive]
+theorem prod_comp_equiv [DecidableEq γ] {s : Finset α} (f : γ → β) (g : α ≃ γ) :
+    ∏ a in s, f (g a) = ∏ b in s.image g, f b := by
+  classical
+  simp [Equiv.prod_comp_finset g f rfl]
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Basic.lean:599]: Isn't this `Equiv.prod_comp`?

Comment (eric-wieser) [reply Mathlib/Algebra/BigOperators/Basic.lean:599]: Ah no, I see it isn't. Perhaps:
```suggestion
/-- For the special case when `s = univ`, see `Equiv.prod_comp` -/
@[to_additive]
theorem prod_comp_equiv (s : Finset α) (f : γ → β) (g : α ≃ γ) :
    ∏ a in s, f (g a) = ∏ b in s.map g.toEmbedding, f b := by
  classical
  simp [Equiv.prod_comp_finset g f rfl]
```

File: Mathlib/Data/Finset/Card.lean [hunk 2]
```diff
@@ -130,11 +130,21 @@ theorem card_doubleton (h : a ≠ b) : ({a, b} : Finset α).card = 2 := by
   rw [card_insert_of_not_mem (not_mem_singleton.2 h), card_singleton]
 #align finset.card_doubleton Finset.card_doubleton
 
+/-- `#(s \ {a}) = #s - 1` if `a ∈ s`. -/
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Card.lean:133]: I'm not a huge fan of using `` `code` `` blocks to display stuff that isn't lean code, especially here where it *is* lean code but means something different! Perhaps better to write it as $\LaTeX$?

File: Mathlib/Data/Fintype/BigOperators.lean [hunk 3]
```diff
@@ -281,6 +281,11 @@ open Finset
 
 variable {α₁ : Type*} {α₂ : Type*} {M : Type*} [Fintype α₁] [Fintype α₂] [CommMonoid M]
 
+@[to_additive]
+theorem prod_sum_univ [Fintype α] [Fintype γ] (f : α ⊕ γ → M) :
+    ∏ x, f x = (∏ x, f (Sum.inl x)) * ∏ x, f (Sum.inr x) := by
+  rw [← univ_disjSum_univ, prod_disj_sum]
+
```
Comment (eric-wieser) [inline Mathlib/Data/Fintype/BigOperators.lean:288]: This is identical to `Fintype.prod_sum_type` a few lines below, isn't it?

File: Mathlib/Data/Fintype/Card.lean [hunk 4]
```diff
@@ -289,6 +289,11 @@ theorem Finset.card_compl [DecidableEq α] [Fintype α] (s : Finset α) :
   Finset.card_univ_diff s
 #align finset.card_compl Finset.card_compl
 
+@[simp]
```
Comment (eric-wieser) [inline Mathlib/Data/Fintype/Card.lean:292]: As you're making this `simp`, can you add the symmetric version too?

File: Mathlib/Data/Fintype/BigOperators.lean (hunk 3 above)
Comment (fpvandoorn) [reply Mathlib/Data/Fintype/BigOperators.lean:288]: Oops!

File: Mathlib/Algebra/BigOperators/Basic.lean (hunk 1 above)
Comment (fpvandoorn) [reply Mathlib/Algebra/BigOperators/Basic.lean:599]: I decided to remove this. This is already very similar to `prod_map` and `prod_image`.

Comment (eric-wieser) [reply Mathlib/Algebra/BigOperators/Basic.lean:599]: It doesn't look like you actually did remove it.

Comment (fpvandoorn) [reply Mathlib/Algebra/BigOperators/Basic.lean]: Oops!

File: Mathlib/Data/Fintype/Basic.lean [hunk 5]
```diff
@@ -256,6 +259,10 @@ theorem image_univ_of_surjective [Fintype β] {f : β → α} (hf : Surjective f
   eq_univ_of_forall <| hf.forall.2 fun _ => mem_image_of_mem _ <| mem_univ _
 #align finset.image_univ_of_surjective Finset.image_univ_of_surjective
 
+theorem _root_.Equiv.finset_image_univ_eq_univ [Fintype β] [DecidableEq β]
+    (f : α ≃ β) : univ.image f = univ :=
+  Finset.image_univ_of_surjective f.surjective
```
Comment (eric-wieser) [inline Mathlib/Data/Fintype/Basic.lean:264]: This is almost identical to `Finset.map_univ_equiv` a few lines below. Can you make the names consistent, and perhaps mark this `simp` too?

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Data/Fintype/Basic.lean [hunk 6]
```diff
@@ -227,6 +227,9 @@ theorem compl_insert : (insert a s)ᶜ = sᶜ.erase a := by
   simp only [not_or, mem_insert, iff_self_iff, mem_compl, mem_erase]
 #align finset.compl_insert Finset.compl_insert
 
+theorem insert_compl_insert (ha : a ∉ s) : insert a (insert a s)ᶜ = sᶜ := by
+  simp_rw [@eq_compl_comm _ _ s, compl_insert, compl_erase, compl_compl, erase_insert ha]
```
Comment (YaelDillies) [inline Mathlib/Data/Fintype/Basic.lean:231]: I would drop this lemma since it is the combination of two much simpler rewrites:
```suggestion
  simp_rw [compl_insert, insert_erase (mem_compl.2 ha)]
```

Comment (fpvandoorn) [reply Mathlib/Data/Fintype/Basic.lean]: Thanks for the simpler proof.
I still think it's useful to keep, since you use 3 lemmas, and this is a simple statement that will probably occur more frequently when doing things with `insert` and `compl` (for manual rewriting - it is indeed not a good `simp` lemma).

Comment (YaelDillies) [reply Mathlib/Data/Fintype/Basic.lean]: My point is that in all cases where you would be faced with this expression, you will first rewrite `compl_insert`. Then the proof is just `insert_erase (mem_compl.2 ha)`, which doesn't seem to be worth a lemma.

Comment (eric-wieser) [reply Mathlib/Data/Fintype/Basic.lean]: Should `insert_erase` be a `simp` lemma so that `simp` applies all three steps?

Comment (YaelDillies) [reply Mathlib/Data/Fintype/Basic.lean]: It really could, yeah.
